US05162345
4-(2-Formylphenyl)-1,4-dihydro-2-dimethylamino-methyl-6-methyl-3,5-pyridinedicarboxylic acid diethylester
Pyridine hydrobromide perbromide (3.2 g) was added to a solution of 4-(2-formylphenyl)-1,4-dihydro-2,6-dimethyl-3,5-pyridinedicarboxylic acid diethylester (3.15 g) and pyridine (1.3 ml) in dicloromethane (100 ml) at 0° C. and stirred for 0.5 hours. The mixture was then cooled to -10° C., treated with dimethylamine (10.6 ml) and stirred at -10° C. for 1 hour. The solvent was evaporated and the residue taken up with ethyl acetate. The solid was filtered off and the solution evaporated to dryness to obtain a red oil, which was eluted on a silica gel column (Ethyl acetate/Petrol ether/Methanol, 7:3:1) to yield the title compound as a yellow solid (from petrol ether) (2.3 g), m.p. 115°-120° C. T.l.c. (CH2Cl2 /Methanol, 95:5) Rf. 0.38.

reactant | Pyridine hydrobromide perbromide | 3.2 g | C1=CC=[NH+]C=C1.Br[Br-]Br
reactant | 4-(2-formylphenyl)-1,4-dihydro-2,6-dimethyl-3,5-pyridinedicarboxylic acid diethylester | 3.15 g | C(C)OC(=O)C1=C(NC(=C(C1C1=C(C=CC=C1)C=O)C(=O)OCC)C)C | C20H23NO5
reactant | pyridine | 1.3 ml | N1=CC=CC=C1 | C5H5N
reactant | dimethylamine | 10.6 ml | CNC | C2H7N
solvent | dicloromethane | 100 ml | ClCCl | CH2Cl2
product | 4-(2-Formylphenyl)-1,4-dihydro-2-dimethylamino-methyl-6-methyl-3,5-pyridinedicarboxylic acid diethylester | 2.3 g | C(C)OC(=O)C1=C(N(C(=C(C1C1=C(C=CC=C1)C=O)C(=O)OCC)C)C)N(C)C | C22H28N2O5
